US07939467B2
Step 1: 3-Isobutylamino-2-methyl-4-(methylsulfonyl)benzoic acid
2.0 g (9 mmol) of 3-fluoro-2-methyl-4-(methylsulfonyl)benzoic acid were dissolved in 26.5 ml (267 mmol) of isobutylamine. The mixture was heated at reflux with stirring for 8 days, cooled to RT, acidified with 10% strength sulfuric acid and extracted twice with ethyl acetate. The combined organic phases were dried over MgSO4, and the solvent was removed under reduced pressure. This gave 2.4 g of a colorless solid of a purity of 98%.

reactant | 3-fluoro-2-methyl-4-(methylsulfonyl)benzoic acid | 9 mmol, 2.0 g | FC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H9FO4S
reactant | isobutylamine | 267 mmol, 26.5 ml | C(C(C)C)N | C4H11N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-Isobutylamino-2-methyl-4-(methylsulfonyl)benzoic acid | C(C(C)C)NC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C13H19NO4S
